US09120749B2
1-(6-Bromo-4-(6-(4-methylpiperazin-1-yl)pyridin-3-ylamino)quinolin-3-yl)ethanone
Following general procedure B, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (200 mg, 0.704 mmol) was reacted with 6-(4-methylpiperazin-1-yl)pyridin-3-amine (163 mg, 0.845 mmol) to afford the desired product (90 mg, 29%) as a yellow solid: ESI MS m/z 440, [C21H22BrN5O+H]+

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 0.704 mmol, 200 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | 6-(4-methylpiperazin-1-yl)pyridin-3-amine | 0.845 mmol, 163 mg | CN1CCN(CC1)C1=CC=C(C=N1)N | C10H16N4
product | 1-(6-Bromo-4-(6-(4-methylpiperazin-1-yl)pyridin-3-ylamino)quinolin-3-yl)ethanone | 90 mg, 29% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=NC(=CC1)N1CCN(CC1)C | C21H22BrN5O
